US04216333
Into a flask, benzene (380 ml) was charged, and aluminum chloride (88 g) was suspended therein. A solution of o-chlorobenzotrichloride (138 g, 0.6 mole) in benzene (145 ml) was dropwise added thereto over 2 hours while keeping the temperature at 60° C. After the addition was completed, the mixture was refluxed for 2 hours. The reaction mixture was poured into water (600 ml), and the flask was washed with benzene (240 ml) and water (120 ml). The combined mixture was refluxed for 4 hours. The organic layer was separated, washed with water (400 ml), treated with charcoal (6 g) and filtered. Evaporation of the benzene filtrate gave 172.6 g of o-chlorophenyldiphenylmethanol as a crystalline mass. Yield, 97.7%. M.P., 88.5°-91.5° C.

reactant | aluminum chloride | 88 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | o-chlorobenzotrichloride | 0.6 mole, 138 g | ClC1=C(C=CC=C1)C(Cl)(Cl)Cl | C7H4Cl4
reactant | water | 600 ml | O | H2O
reactant | benzene | 145 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 380 ml | C1=CC=CC=C1 | C6H6
product | o-chlorophenyldiphenylmethanol | 172.6 g | ClC1=C(C=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15ClO
